* NGSPICE file created from zlc_4bit.ext - technology: sky130A

.subckt sky130_fd_sc_hd__nor4_1 A B C D VGND VNB VPB VPWR Y
X0 Y B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08937 ps=0.925 w=0.65 l=0.15
X1 a_191_297# C a_109_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.19 pd=1.38 as=0.13 ps=1.26 w=1 l=0.15
X2 VPWR A a_297_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X3 VGND C Y VNB sky130_fd_pr__nfet_01v8 ad=0.08937 pd=0.925 as=0.11863 ps=1.015 w=0.65 l=0.15
X4 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X5 a_297_297# B a_191_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.19 ps=1.38 w=1 l=0.15
X6 a_109_297# D Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.13 pd=1.26 as=0.26 ps=2.52 w=1 l=0.15
X7 Y D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.11863 pd=1.015 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
X0 VGND A a_68_297# VNB sky130_fd_pr__nfet_01v8 ad=0.10025 pd=0.985 as=0.0567 ps=0.69 w=0.42 l=0.15
X1 a_68_297# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X2 X a_68_297# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.10025 ps=0.985 w=0.65 l=0.15
X3 VPWR A a_150_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14575 pd=1.335 as=0.0441 ps=0.63 w=0.42 l=0.15
X4 X a_68_297# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.34 pd=2.68 as=0.14575 ps=1.335 w=1 l=0.15
X5 a_150_297# B a_68_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
X0 VPWR A a_109_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.105 ps=1.21 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 a_109_297# B Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.105 pd=1.21 as=0.26 ps=2.52 w=1 l=0.15
X3 Y B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
X0 VPWR B a_59_75# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.16655 pd=1.39 as=0.0567 ps=0.69 w=0.42 l=0.15
X1 X a_59_75# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.475 pd=2.95 as=0.16655 ps=1.39 w=1 l=0.15
X2 VGND B a_145_75# VNB sky130_fd_pr__nfet_01v8 ad=0.1118 pd=1.04 as=0.0567 ps=0.69 w=0.42 l=0.15
X3 a_59_75# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1176 ps=1.4 w=0.42 l=0.15
X4 X a_59_75# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.182 pd=1.86 as=0.1118 ps=1.04 w=0.65 l=0.15
X5 a_145_75# A a_59_75# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1176 ps=1.4 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_1 A VGND VNB VPB VPWR Y
X0 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt zlc_4bit A[3] A[0] A[1] A[2] VDD GND Z[0] Z[2] Z[1]
Xx1 A[3] A[2] A[1] A[0] GND GND VDD VDD Z[2] sky130_fd_sc_hd__nor4_1
Xx3 A[1] A[0] GND GND VDD VDD x4/B sky130_fd_sc_hd__or2_1
Xx2 A[3] A[2] GND GND VDD VDD x4/A sky130_fd_sc_hd__nor2_1
Xx4 x4/A x4/B GND GND VDD VDD Z[1] sky130_fd_sc_hd__and2_1
Xx5 A[3] GND GND VDD VDD x9/A sky130_fd_sc_hd__inv_1
Xx6 A[1] GND GND VDD VDD x7/A sky130_fd_sc_hd__inv_1
Xx7 x7/A A[0] GND GND VDD VDD x8/A sky130_fd_sc_hd__and2_1
Xx8 x8/A A[2] GND GND VDD VDD x9/B sky130_fd_sc_hd__or2_1
Xx9 x9/A x9/B GND GND VDD VDD Z[0] sky130_fd_sc_hd__and2_1
.ends

